US05639779
5-(2-Ethylsulphonylethyl)-3-(2(R)-pyrrolidinylmethyl)-1H-indole
A solution of 3-(N-benzyloxycarbonyl-2(R)-pyrrolidinylmethyl)-5-(2-ethylsulphonylethenyl)-1H-indole (Preparation 3; 160 mg, 0.35 mmol) in ethanol (5 ml) was hydrogenated over 10% palladium on charcoal (150 mg) at 15 p.s.i. (1.04 bar) and room temperature for 18 hours, and then filtered. Evaporation of the filtrate under reduced pressure yielded a foam which was purified by column chromatography on silica gel, eluting with a gradient of 0.880 aqueous ammonia: methanol:dichloromethane (0:10:90 to 1:10:90), to provide the title compound as a foam (70 mg). Rf 0.30 (SS 4). [α]D25 -11° (c=0.1, CH3OH). Found: C,63.13; H,7.37; N,8.55. C17H24N2O2S; 0.05 CH2Cl2 requires C,63.07; H,7.48; N,8.63%. δ(CDCl3): 1.35(3H,t), 1.65-1.90(5H,m), 2.70-3.10(6H,m), 3.25(4H,m), 3.35(1H,m), 5.25(0.10H,s, CH2Cl2), 6.98-7.04(2H,m), 7.22(1H,d), 7.45(1H,s), 8.12(1H,br s).

reactant | 3-(N-benzyloxycarbonyl-2(R)-pyrrolidinylmethyl)-5-(2-ethylsulphonylethenyl)-1H-indole | 0.35 mmol, 160 mg | C(C1=CC=CC=C1)OC(=O)N1[C@H](CCC1)CC1=CNC2=CC=C(C=C12)C=CS(=O)(=O)CC | C25H28N2O4S
solvent | ethanol | 5 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | 150 mg | [Pd] | Pd
product | 5-(2-Ethylsulphonylethyl)-3-(2(R)-pyrrolidinylmethyl)-1H-indole | 70 mg | C(C)S(=O)(=O)CCC=1C=C2C(=CNC2=CC1)C[C@@H]1NCCC1 | C17H24N2O2S
